US06369069B1
i) {[Benzyl(thiophene-2-sulfonyl)amino]methyl}-3′-(2-methoxy)ethoxy-biphenyl-2-sulfonamide
550 mg of {[benzyl(thiophene-2-sulfonyl)amino]methyl}-3′-(2-methoxy)ethoxy-biphenyl-2-sulfonic acid dimethylaminomethylenamide are refluxed for 1 h in 5 ml of EtOH and 5 ml of a saturated aqueous HCl solution. 100 ml of a 10% aqueous sodium hydrogencarbonate solution are added and the mixture is extracted 3 times with 100 ml of EA each time. It is dried over magnesium sulfate and the solvent is removed in vacuo. Chromatography on silica gel using MTB/DIP 1:1 yields 188 mg of a colorless oil.

reactant | {[benzyl(thiophene-2-sulfonyl)amino]methyl}-3′-(2-methoxy)ethoxy-biphenyl-2-sulfonic acid dimethylaminomethylenamide | 550 mg | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1CN(S(=O)(=O)C=1SC=CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)OCCOC | C30H33N3O6S3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | HCl | 5 ml | Cl | ClH
product | {[Benzyl(thiophene-2-sulfonyl)amino]methyl}-3′-(2-methoxy)ethoxy-biphenyl-2-sulfonamide | 188 mg | C(C1=CC=CC=C1)N(S(=O)(=O)C=1SC=CC1)CC1=C(C(=CC=C1)C1=CC(=CC=C1)OCCOC)S(=O)(=O)N | C27H28N2O6S3
